US08623911B2
To a solution of 2-(2-bromo-phenyl)-ethanol (5.0 g, 24.9 mmol, 1.0 eq) in DCM (100 mL) was added 3,4-dihydro-2H-pyran (3.4 mL, 37.3 mmol, 1.5 eq.), followed by camphorsulfonic acid (2100 mg). The mixture was stirred at room temperature for 2 h. After adding K2CO3 (300 mg), the mixture was filtered to remove the precipitate, the filtrate was washed with H2O (100 mL), brine (100 mL). The organic phase was dried over MgSO4, filtered and the filtrate was concentrated under reduced pressure. The oily residue was applied to silica chromatography eluting with EtOAc/Heptanes (0:100 to 50:50) to give 2-[2-(2-bromo-phenyl)-ethoxy]-tetrahydro-pyran as a colorless oil. 1H NMR (chloroform-d) δ: 7.48-7.54 (m, 1H), 7.25-7.30 (m, 1H), 7.17-7.23 (m, 1H), 7.01-7.09 (m, 1H), 4.56-4.61 (m, 1H), 3.88-3.97 (m, 1H), 3.58-3.67 (m, 1H), 3.04 (t, J=7.2 Hz, 2H), 1.62-1.67 (m, 1H), 1.41-1.60 (m, 5H), 0.85-0.90 (m, 1H). Amount obtained: 6.9 g, 97.1% yield.

reactant | 2-(2-bromo-phenyl)-ethanol | 24.9 mmol, 5.0 g, 1.0 eq | BrC1=C(C=CC=C1)CCO | C8H9BrO
reactant | 3,4-dihydro-2H-pyran | 37.3 mmol, 3.4 mL, 1.5 eq. | O1CCCC=C1 | C5H8O
reactant | camphorsulfonic acid | 2100 mg | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
reactant | K2CO3 | 300 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 2-[2-(2-bromo-phenyl)-ethoxy]-tetrahydro-pyran | 97.1% yield | BrC1=C(C=CC=C1)CCOC1OCCCC1 | C13H17BrO2
